US07816344B2
4-(1-Hydroxy-3-nitromethyl-1,3-dihydro-benzo[c][1,2]oxaborol-7-yloxy)-butyric acid
A mixture of 4-(1-hydroxy-3-nitromethyl-1,3-dihydro-benzo[c][1,2]oxaborol-7-yloxy)-butyric acid ethyl ester (2.51 g, 7.78 mmol), 10% NaOH (17 mL), and 1:1 MeOH/H2O (70 mL) was stirred at rt for 5 h. The MeOH was removed in vacuo and the remaining aqueous layer was acidified to pH 1 using 2 M HCl. The aqueous layer was then extracted with EtOAc. The organic fractions were washed with brine, dried (MgSO4), and concentrated in vacuo to give the title compound as a pale yellow foam: yield 1.85 g (81%).

reactant | 4-(1-hydroxy-3-nitromethyl-1,3-dihydro-benzo[c][1,2]oxaborol-7-yloxy)-butyric acid ethyl ester | 7.78 mmol, 2.51 g | C(C)OC(CCCOC1=CC=CC2=C1B(OC2C[N+](=O)[O-])O)=O | C14H18BNO7
reactant | NaOH | 17 mL | [OH-].[Na+]
solvent | MeOH H2O | 70 mL | CO.O
product | 4-(1-Hydroxy-3-nitromethyl-1,3-dihydro-benzo[c][1,2]oxaborol-7-yloxy)-butyric acid | OB1OC(C2=C1C(=CC=C2)OCCCC(=O)O)C[N+](=O)[O-] | C12H14BNO7
